US08895777B2
Preparation of 4-(3-methylbenzyloxy)butyric acid (Compound 6)
A suspension of 3-methylphenol (200 g, 1.85 mol), ethyl 4-bromobutanoate (433 g, 2.11 mol), potassium hydroxide (155.7 g, 2.78 mol), 500 mL of water in 2500 mL of Dimethylsulfoxide (DMSO) in a 5-L flask was stirred at room temperature overnight. An additional 500 g water was added, and the reaction mixture was heated at 75° C. for 2 hours. Potassium hydroxide (155.7 g, 2.78 mol) was added. The reaction was stirred for an additional 30 min. The thick slurry was transferred in a 22-L flask. Addition of water (6 L) to the slurry with stirring caused the dissolution of the slurry. Concentrated HCl (300 mL) was slowly added. During the reaction, the temperature of the reaction mixture was maintained at about 36° C. with external cooling with ice. After the addition, the mixture was further cooled overnight to 10° C. The resulting solid was collected by filtration, washed with 100 mL of water, and dried with in-house vacuum for 2 days. Further drying high vacuum overnight afforded 311.88 g of the crude material. Recryallization in a mixture of ethanol (400 mL) and water (150 mL) yielded 290.94 g (81%) of the desired product as a solid. Mp: 53-54° C. HPLC Rt 5.13 min.; 1H NMR (DMSO d6, 300 MHz) δ: 1.88 (m, 2H), 2.22 (s, 3H), 2.33 (t, 2H), 3.89 (t, 2H), 6.62-6.72 (m, 3H), 7.10 (m, 1H), 12.20 (s, 1H). Anal. Calcd for C11H14O3: C, 67.82; H, 7.28. Found: C, 67.90; H, 7.36.

reactant | 3-methylphenol | 1.85 mol, 200 g | CC=1C=C(C=CC1)O | C7H8O
reactant | ethyl 4-bromobutanoate | 2.11 mol, 433 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium hydroxide | 2.78 mol, 155.7 g | [OH-].[K+]
reactant | Potassium hydroxide | 2.78 mol, 155.7 g | [OH-].[K+]
reactant | HCl | 300 mL | Cl | ClH
reactant | Dimethylsulfoxide | 2500 mL | CS(=O)C | C2H6OS
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
solvent | water | 6 L | O | H2O
solvent | water | 500 g | O | H2O
solvent | water | 500 mL | O | H2O
product | 4-(3-methylbenzyloxy)butyric acid | 290.94 g, 81% | CC=1C=C(COCCCC(=O)O)C=CC1 | C12H16O3
